** sch_path: /home/userproj/microelectronics/PDK/IHP/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/Zigbee/LNA_Ind_degen/LNA_xschem.sch
.SUBCKT LNA_xschem Vout Vin GND Vdd
*.PININFO Vout:B Vin:B GND:B Vdd:B
XC1 net5 Vout cap_cmim w=27.5e-6 l=27.5e-6 m=1
XM1 net4 Vdd net5 GND sg13_lv_nmos l=0.13u w=106u ng=11 m=1
XR1 net2 net1 rhigh w=1e-6 l=2e-6 m=1 b=0
XR2 net1 Vdd rsil w=1.2e-6 l=20.0e-6 m=1 b=0
x1 Vdd net5 GND inductance_3nH
XM2 net3 Vin net4 GND sg13_lv_nmos l=0.13u w=106u ng=11 m=1
XM3 GND net1 net1 GND sg13_lv_nmos l=0.2u w=58.0u ng=4 m=1
x2 Vin net2 GND inductance_3nH
x3 net3 GND GND inductance_1-6nH
XC2 Vout GND cap_cmim w=34.0e-6 l=34.0e-6 m=1
XCp Vin net3 cap_cmim w=25.9e-6 l=25.9e-6 m=1
.ENDS

* expanding   symbol:  Zigbee/Inductance/MODEL_XSCHEM/inductance_3nH.sym # of pins=3
** sym_path: /home/userproj/microelectronics/PDK/IHP/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/Zigbee/Inductance/MODEL_XSCHEM/inductance_3nH.sym
** sch_path: /home/userproj/microelectronics/PDK/IHP/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/Zigbee/Inductance/MODEL_XSCHEM/inductance_3nH.sch
.SUBCKT inductance_3nH OUT IN GND
*.PININFO GND:B OUT:B IN:B
Ls net1 OUT 2.885n m=1
Cox1 IN net2 55.8f m=1
Cox2 OUT net3 55.8f m=1
Csp IN OUT 13.69f m=1
Rp1 net2 GND 18.32 m=1
Rp2 net3 GND 18.32 m=1
Rs IN net1 3.623 m=1
.ENDS


* expanding   symbol:  Zigbee/Inductance/MODEL_XSCHEM/inductance_1-6nH.sym # of pins=3
** sym_path: /home/userproj/microelectronics/PDK/IHP/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/Zigbee/Inductance/MODEL_XSCHEM/inductance_1-6nH.sym
** sch_path: /home/userproj/microelectronics/PDK/IHP/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/Zigbee/Inductance/MODEL_XSCHEM/inductance_1-6nH.sch
.SUBCKT inductance_1-6nH OUT IN GND
*.PININFO GND:B OUT:B IN:B
Ls net1 OUT 1.65n m=1
Cox1 IN net2 10f m=1
Cox2 OUT net3 10f m=1
Csp IN OUT 25.785f m=1
Rp1 net2 GND 72.575 m=1
Rp2 net3 GND 72.575 m=1
Rs IN net1 2.27 m=1
.ENDS

